US05457099
Preparation of 4-[[4-(1H-indol-3-yl)-l-piperidinyl]methyl]-1-methyl-2(1H)-quinolinone (III-16)
A suspension of 4-bromomethyl-l-methyl-2(1H)-quinolinone (756 mg, 3 mmol), 3-(4-piperidinyl)-1H-indole (600 mg, 3 mmol) and sodium hydrogencarbonate (378 mg, 4.5 mmol) in dry dimethylformamide (5 ml) was allowed to react at 80 ° C. for 2 hours. The reaction mixture was poured into water and the separated solid was filtered off. The solid was washed with water, dried and then recrystallized from methanol/tetrahydrofuran to give the desired product (III16) (720 mg, yield 65%). Mp 228°-229 ° C. (methanol/tetrahydrofuran).

reactant | 4-bromomethyl-l-methyl-2(1H)-quinolinone | 3 mmol, 756 mg | BrCC1=CC(N(C2=CC=CC=C12)C)=O | C11H10BrNO
reactant | 3-(4-piperidinyl)-1H-indole | 3 mmol, 600 mg | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium hydrogencarbonate | 4.5 mmol, 378 mg | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[[4-(1H-indol-3-yl)-l-piperidinyl]methyl]-1-methyl-2(1H)-quinolinone | 720 mg, yield 65% | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC1=CC(N(C2=CC=CC=C12)C)=O | C24H25N3O
